US09163027B2
2-{[2-(4-chlorophenoxy)ethyl]sulfanyl}-5,7-bis(trifluoromethyl)-[1,2,4]-triazolo[1,5-a]pyrimidine
The title compound was prepared according to the experimentals described for Example 23 above from 3-{[2-(4-chlorophenoxy)ethyl]sulfanyl}-1H-1,2,4-triazol-5-amine and hexafluoroacetylacetone in 32% yield; EM (calc.): 442.0; MS (ESI) m/e: 443.0 (M+H)+. 1H NMR (DMSO-d6, 400 MHz) δ ppm: 8.40 (s, 1H), 7.32 (d, 2H), 7.01 (d, 2H), 4.36 (t, 2H), 3.71 (t, 2H). 19F NMR (DMSO-d6, 376 MHz) δ ppm: −66.84 (s), −67.45 (s).

reactant | 3-{[2-(4-chlorophenoxy)ethyl]sulfanyl}-1H-1,2,4-triazol-5-amine | ClC1=CC=C(OCCSC2=NNC(=N2)N)C=C1 | C10H11ClN4OS
reactant | hexafluoroacetylacetone | C(C(=O)C(F)(F)F)C(=O)C(F)(F)F | C5H2F6O2
product | 2-{[2-(4-chlorophenoxy)ethyl]sulfanyl}-5,7-bis(trifluoromethyl)-[1,2,4]-triazolo[1,5-a]pyrimidine | 32% yield | ClC1=CC=C(OCCSC2=NN3C(N=C(C=C3C(F)(F)F)C(F)(F)F)=N2)C=C1 | C15H9ClF6N4OS
